US07745475B2
3-[4-(azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-[(1R)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide
Cesium carbonate (780 mg, 2.40 mmol) was added to a mixture of 3-hydroxy-5-[(1R)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide (350 mg, 1.2 mmol) and 1-(3,4-difluorobenzoyl)azetidine (235 mg, 1.2 mmol) in dimethylacetamide (5.0 mL) and the stirred-mixture heated at 160° C. in a ‘Smith Creator Microwave’ for 2 hours. The mixture was allowed to return to ambient temperature and pressure and was partitioned between ethyl acetate (50 mL) and water (50 mL). The ethyl acetate layer was separated, washed with water (5×50 mL) brine (50 mL), dried (MgSO4) and evaporated to a residue which was chromatographed on silica, eluting with a gradient of 0-10% methanol in DCM, and then chromatographed by preparative HPLC on C18 reversed phase using 5-95% acetonitrile (+0.2% TFA) in water (+0.2% TFA) as eluant. A 10% impurity remained. This mixture (0.12 g, 0.26 mmol) was dissolved in DMF (3 mL) and imidazole (0.123 g, 1.79 mmol) and tert-butyldimethylsilylchloride (77 mg, 0.51 mmol) were added. After stirring at RT for 24 hours water (30 mL) was added and the material extracted into diethyl ether (2×50 mL). The combined extracts were washed with brine (50 mL), dried (MgSO4) and evaporated to a residue which was chromatographed on silica, eluting with a gradient of 0-10% methanol in chloroform, and then chromatographed by preparative HPLC on C18 reversed phase using 5-95% acetonitrile (+0.2% TFA) in water (+0.2% TFA) as eluant. The chromatography fractions were allowed to stand overnight and the acetonitrile removed in vacuo. The aqueous residue was basified with saturated aqueous sodium bicarbonate solution and extracted into ethyl acetate (2×50 mL) and the combined extracts reduced in vacuo to give the desired compound. (30 mg)

reactant | Cesium carbonate | 2.40 mmol, 780 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-hydroxy-5-[(1R)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 1.2 mmol, 350 mg | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@@H](CO)C | C14H17N3O4
reactant | 1-(3,4-difluorobenzoyl)azetidine | 1.2 mmol, 235 mg | FC=1C=C(C(=O)N2CCC2)C=CC1F | C10H9F2NO
reactant | imidazole | 1.79 mmol, 0.123 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilylchloride | 0.51 mmol, 77 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dimethylacetamide | 5.0 mL | CC(=O)N(C)C | C4H9NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | 3-[4-(azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-[(1R)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)NC3=NN(C=C3)C)C=C(C2)O[C@@H](CO)C)C=C1)F | C24H25FN4O5
